US06846835B2
Synthesis of 1-cycloheptylmethyl-4-(((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoyl)oxy)-1-methylpiperidinium iodide
A solution formed by dissolving 1-(cycloheptylmethyl)piperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate in 0.3 ml of methyl iodide at room temperature was allowed to stand for 12 hours at the same temperature, and excessive reagent was distilled off under reduced pressure. The diastereomers in the residue were separated on preparative thin layer chromatography (Kieselgel™60F254 Art5744 (Merck), chloroform/methanol=5/1) to provide the title compound respectively as 3.8 mg (low polar substance) and 2.8 mg (high polar substance) of colorless oily substances.

reactant | 1-(cycloheptylmethyl)piperidin-4-yl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate | FC1(C[C@@H](CC1)[C@](C(=O)OC1CCN(CC1)CC1CCCCCC1)(C1=CC=CC=C1)O)F | C26H37F2NO3
reactant | methyl iodide | 0.3 ml | CI | CH3I
product | 1-cycloheptylmethyl-4-(((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoyl)oxy)-1-methylpiperidinium iodide | [I-].C1(CCCCCC1)C[N+]1(CCC(CC1)OC([C@@](C1=CC=CC=C1)(O)[C@H]1CC(CC1)(F)F)=O)C | InChI=1S/C27H40F2NO3.HI/c1-30(20-21-9-5-2-3-6-10-21)17-14-24(15-18-30)33-25(31)27(32,22-11-7-4-8-12-22)23-13-16-26(28,29)19-23;/h4,7-8,11-12,21,23-24,32H,2-3,5-6,9-10,13-20H2,1H3;1H/q+1;/p-1/t23-,24?,27+,30?;/m1./s1
